US07858623B2
A 250-mL flask was charged with 2-anilinoethanol (9.17 ml, 73.2 mmol), 9 mL dry EtOH, an overhead stirrer, a calibrated pH probe, and 27 mL water. An addition funnel was charged with 10 N sodium hydroxide solution (45.4 ml, 454 mmol). The solution was heated to 41° C., and treated with chloracetyl chloride (17.5 ml, 220 mmol) via a syringe pump over 1 h. The sodium hydroxide solution was simultaneously added to the stirring solution so that the pH was maintained between 12 and 12.5. After the addition was complete, the solution was cooled to 0° C. and stirred for 1 h. The solids were collected and washed with water (2×60 mL cold water). The solids were dried at 50° C. at 0.2 mm Hg for 36 h to afford 4-phenylmorpholin-3-one (8.10 g, 62.5% yield). 1H NMR (400 MHz, CHLOROFORM-d) 3.75-3.80 (m, 2H) 4.02-4.06 (m, 2H) 4.35 (s, 2H) 7.27-7.36 (m, 3H) 7.39-7.46 (m, 2H). 13C NMR (101 MHz, CHLOROFORM-d) 49.69 (s, 1C) 64.14 (s, 1C) 68.57 (s, 1C) 125.48 (s, 2C) 127.15 (s, 1C) 129.30 (s, 2C) 141.31 (s, 1C) 166.59 (s, 1C).

reactant | 2-anilinoethanol | 73.2 mmol, 9.17 ml | N(C1=CC=CC=C1)CCO | C8H11NO
reactant | EtOH | 9 mL | CCO | C2H6O
reactant | sodium hydroxide | 454 mmol, 10 N, 45.4 ml | [OH-].[Na+]
reactant | chloracetyl chloride | 220 mmol, 17.5 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | water | 27 mL | O | H2O
product | 4-phenylmorpholin-3-one | 8.10 g, 62.5% yield | C1(=CC=CC=C1)N1C(COCC1)=O | C10H11NO2
